US09212190B2
To a solution of 4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexan-1-ol (250 mg, 1.27 mmol, 1.19 equiv) in 15 mL of freshly distilled THF was added sodium hydride (60% dispersion in mineral oil, 169.9 mg, 4.25 mmol, 4.00 equiv) in portions at 0° C. under nitrogen. The resulting solution was stirred for 0.5 h at this temperature. Then (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene (377 mg, 1.06 mmol, 1.00 equiv) was added and the resulting solution was allowed to react, with stirring, for an additional 2 h at ambient temperature. After completion of the reaction, the reaction mixture was quenched by the addition of 20 mL of saturated aqueous NH4Cl and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate to give the desired (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene (0.5 g, 91%) as a colorless oil.

reactant | 4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexan-1-ol | 1.27 mmol, 250 mg, 1.19 equiv | C1OCC12CN(C2)C2CCC(CC2)O | C11H19NO2
reactant | sodium hydride | 4.25 mmol, 169.9 mg, 4.00 equiv | [H-].[Na+]
reactant | (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene | 1.06 mmol, 377 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)Cl | C16H23ClN2OSSi
solvent | THF | C1CCOC1 | C4H8O
product | (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraene | 0.5 g, 91% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CC2(COC2)C1 | C27H41N3O3SSi
